US05364844
Benzyl 2(S)-benzyl-4-pentenoate
5.63 ml (9.01 mmoles) of butyllithium (as a 1.6M hexane solution) were added, whilst ice-cooling and under an atmosphere of nitrogen, to a solution of 1.24 ml (12.0 mmoles) of benzyl alcohol in 20 ml of anhydrous tetrahydrofuran. The mixture was stirred for 10 minutes, and then a solution of 1.81 g (6.01 mmoles) of 3-[2(R)-benzyl-4-pentenoyl]-4(S)-isopropyl-2-oxazolidinone (prepared by a procedure similar to that described in Preparation 17) in 10 ml of anhydrous tetrahydrofuran was added dropwise thereto. The mixture was then stirred for 30 minutes, after which a saturated aqueous solution of ammonium chloride was added to the reaction mixture, which was then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, the solvent was removed by distillation under reduced pressure, and the residue was purified by medium pressure silica gel column chromatography (using a 10:1 by volume mixture of hexane and ethyl acetate as eluent), to give 1.58 g (yield 94%) of the title compound as a colorless oily substance.

reactant | butyllithium | 9.01 mmoles, 5.63 ml | C(CCC)[Li]
reactant | benzyl alcohol | 12.0 mmoles, 1.24 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 3-[2(R)-benzyl-4-pentenoyl]-4(S)-isopropyl-2-oxazolidinone | 6.01 mmoles, 1.81 g | C(C1=CC=CC=C1)[C@H](C(=O)N1C(OC[C@@H]1C(C)C)=O)CC=C | C18H23NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | Benzyl 2(S)-benzyl-4-pentenoate | 1.58 g, yield 94% | C(C1=CC=CC=C1)[C@@H](C(=O)OCC1=CC=CC=C1)CC=C | C19H20O2
